US08193202B2
E. Preparation of 3-(4-(methoxymethyl)-1-(5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-4-carboxamido)phenyl dimethylcarbamate.
To a solution of 3-(4-(methoxymethyl)piperidine-4-carboxamido)phenyl dimethylcarbamate, from step D, and N,N-diisopropylethylamine (2 mL, 11.9 mmol) in isopropanol (5 mL) was added 4-chloro-5-methyl-7H-pyrrolo[2,3-d]pyrimidine (397 mg, 2.37 mmol). The reaction mixture was heated to 110° C. in a sealed high-pressure vial for 17 hours, during which time the mixture became homogenous. The reaction was concentrated under vacuum and purified by silica gel chromatography (3-5% methanol:CH2Cl2). The product was washed with cold methanol to provide the title compound as an off-white solid (462 mg, 42% yield).

reactant | 3-(4-(methoxymethyl)piperidine-4-carboxamido)phenyl dimethylcarbamate | CN(C(OC1=CC(=CC=C1)NC(=O)C1(CCNCC1)COC)=O)C | C17H25N3O4
reactant | N,N-diisopropylethylamine | 11.9 mmol, 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-5-methyl-7H-pyrrolo[2,3-d]pyrimidine | 2.37 mmol, 397 mg | ClC=1C2=C(N=CN1)NC=C2C | C7H6ClN3
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 3-(4-(methoxymethyl)-1-(5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-4-carboxamido)phenyl dimethylcarbamate | 462 mg, 42% yield | CN(C(OC1=CC(=CC=C1)NC(=O)C1(CCN(CC1)C=1C2=C(N=CN1)NC=C2C)COC)=O)C | C24H30N6O4
